US04625032
235 mg of (3S)-1,2,3,4-tetrahydro-β-carboline-3-acetic acid hydrochloride are dissolved in 2 ml of dimethylsulfoxide. 0.42 ml of triethylamine and 0.07 ml of carbon disulfide are added to the mixture, and the mixture is stirred at room temperature for 30 minutes. Then, 0.07 ml of methyl iodide are added dropwise to the mixture. The mixture is further stirred at the same temperature for 2 hours. The reaction mixture is evaporated to remove the solvent, and the residue is dissolved in water. The aqueous solution is acidified with 5% HCl, and extracted with ethyl acetate. The extract is washed with water, dried and then evaporated to remove the solvent. Aqueous ethanol is added to the residue, and the precipitates are collected. 102 mg of (3S)-2-(methylthio)thiocarbonyl-1,2,3,4-tetrahydro-β-carboline-3-acetic acid are obtained as white powder.

reactant | (3S)-1,2,3,4-tetrahydro-β-carboline-3-acetic acid hydrochloride | 235 mg | Cl.C1N[C@@H](CC=2C3=CC=CC=C3NC12)CC(=O)O
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.07 ml | C(=S)=S | CS2
reactant | methyl iodide | 0.07 ml | CI | CH3I
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | (3S)-2-(methylthio)thiocarbonyl-1,2,3,4-tetrahydro-β-carboline-3-acetic acid | 102 mg | CSC(=S)N1CC=2NC3=CC=CC=C3C2C[C@H]1CC(=O)O | C15H16N2O2S2
